US06555709B1
4-[(5,6-Dichloro-1-fluoro-1,2,3,4-tetrahydro-2-naphthalenyl)methyl]-N-(2-methylphenyl)benzamide
A solution containing 0.35 g of 4-[(5,6-dichloro-1-hydroxy-1,2,3,4-tetrahydro-2-naphthalenyl)methyl]-N-(2-methylphenyl)benzamide and 10 cm3 of methylene chloride is cooled down to −65°C.±5° C. 142 mg of DAST (diethylaminosulfur trifluoride) was added. The solution was maintained under agitation for 1 hour at −65° C. The temperature was allowed to rise to 20° C. and the reaction medium was poured into an aqueous solution of potassium acid carbonate, followed by agitation for 30 minutes and extraction with methylene chloride. The organic phases were collected, dried, filtered and concentrated. In this way 340 mg of sought product was obtained.

reactant | 4-[(5,6-dichloro-1-hydroxy-1,2,3,4-tetrahydro-2-naphthalenyl)methyl]-N-(2-methylphenyl)benzamide | 0.35 g | ClC1=C2CCC(C(C2=CC=C1Cl)O)CC1=CC=C(C(=O)NC2=C(C=CC=C2)C)C=C1 | C25H23Cl2NO2
reactant | DAST | 142 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | potassium acid carbonate | C(=O)(O)[O-].[K+]
solvent | methylene chloride | 10 cm3 | C(Cl)Cl | CH2Cl2
product | 4-[(5,6-Dichloro-1-fluoro-1,2,3,4-tetrahydro-2-naphthalenyl)methyl]-N-(2-methylphenyl)benzamide | 340 mg | ClC1=C2CCC(C(C2=CC=C1Cl)F)CC1=CC=C(C(=O)NC2=C(C=CC=C2)C)C=C1 | C25H22Cl2FNO
